US08440662B2
Step 1: 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbonitrile
To a 50 mL round bottom flask, 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbaldehyde (0.48 g, 0.0014 mol; prepared in a similar method to that described in Example 10) and THF (10 mL) were added. To the same flask, iodine (0.39 g, 0.00154 mol) and 30% aqueous ammonia (9.6 mL) were added. The reaction mixture was stirred at 25° C. The light brown reaction mixture turned yellow after 3 h. The reaction was quenched by adding ethyl acetate (100 mL) and 10% aqueous sodium thiosulfate (40 mL) and stirred for 5 min. The organic layer was separated, washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure to get the crude product. The crude product was purified using column chromatography (60-120 silica gel, 10-50% ethyl acetate in hexane) to yield the desired product as a off white solid [0.31 g, 65%]. 1H NMR (300 MHz, CDCl3): δ 8.11 (s, 1H), 7.92 (d, J=9.0 Hz, 1H), 7.78 (d, J=9.0 Hz, 1H), 7.24 (d, J=3.6 Hz, 1H), 6.95 (d, J=3.6 Hz, 1H), 3.95 (s, 8H). LC-MS (ESI): Calculated mass: 340.0; Observed mass: 341.0 (RT: 1.55 min).

reactant | 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbaldehyde | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C=O | C17H14ClN3O3
reactant | iodine | 0.00154 mol, 0.39 g | II | I2
reactant | ammonia | 9.6 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbonitrile | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C#N | C17H13ClN4O2
